US04116997
12 Grams of benzyl cyanide and 11 grams of benzaldehyde with 10 grams of NaOCOOCH3 are dissolved in 100 mls methanol and refluxed during two hours. The sodium carbonate is collected, hot, on a filter and the solvent is evaporated in a vacuo. There are obtained 22 grams of phenylcinnamonitrile, having Na2CO3 as an impurity. The pure product is obtained by washing with water.

reactant | benzyl cyanide | C(C1=CC=CC=C1)C#N | C8H7N
reactant | benzaldehyde | 11 grams | C(C1=CC=CC=C1)=O | C7H6O
reactant | NaOCOOCH3 | 10 grams | O([Na])C(=O)OC
solvent | methanol | 100 mls | CO | CH4O
product | phenylcinnamonitrile | 22 grams | C1(=CC=CC=C1)C(C#N)=CC1=CC=CC=C1 | C15H11N
